US09119868B2
Step 4: 6-(N-(3-Chloro-4-(1-(methoxymethoxy)allyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide
To a solution of 6-(N-(3-chloro-4-(1-hydroxyallyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (210 mg, 0.37 mmol) in THF (7 mL) was added DIEA (0.084 mL, 0.48 mmol) and chloromethyl methyl ether (0.16 mL, 2.12 mmol). The reaction mixture was heated at 50° overnight. Another portion of DIEA (0.32 mL, 1.85 mmol) was added and heating was continued for another 5 h. The reaction mixture was cooled to rt, diluted with water and extracted with EtOAc (2×). The combined organic layers were washed with brine (1×), dried over sodium sulfate and concentrated under reduced pressure. Purification by flash chromatography (silica gel, gradient of 0 to 60% EtOAc in hexanes) afforded the title compound (175 mg, 77%) as a colorless oil. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.45 (q, 1H), 8.10 (s, 1H), 7.93-8.00 (m, 2H), 7.36-7.53 (m, 5H), 7.19 (s, 1H), 5.88 (ddd, 1H), 5.38 (d, 1H), 5.18-5.30 (m, 2H), 4.66 (d, 1H), 4.53 (d, 1H), 3.38-3.46 (m, 3H), 3.23 (s, 3H), 2.83 (d, 3H), 2.08-2.17 (m, 1H), 0.92-1.06 (m, 1H), 0.75-0.91 (m, 2H), 0.39-0.51 (m, 1H). LCMS (m/z, ES+)=613 (M+H+).

reactant | 6-(N-(3-chloro-4-(1-hydroxyallyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.37 mmol, 210 mg | ClC=1C=C(C=CC1C(C=C)O)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1 | C29H26ClFN2O5S
reactant | DIEA | 0.48 mmol, 0.084 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | chloromethyl methyl ether | 2.12 mmol, 0.16 mL | COCCl | C2H5ClO
reactant | DIEA | 1.85 mmol, 0.32 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 6-(N-(3-Chloro-4-(1-(methoxymethoxy)allyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 175 mg, 77% | ClC=1C=C(C=CC1C(C=C)OCOC)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1 | C31H30ClFN2O6S
